US05359054
17,17-bis-(ethylenedioxy)11-(4-methoxyphenyl)-5,9(11)-estradiene is dissolved in 100 ml of absolute dimethylformamide, mixed with 5.6 g of sodium methanethiolate and the reaction mixture is refluxed for 3 hours. After cooling it is poured on water and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed several times with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane and 8.67 g of 3,3;17,17-bis-(ethylenedioxy)-11-(4-hydroxyphenyl)-5,9(11)-estradiene is obtained as white foam.

reactant | 17,17-bis-(ethylenedioxy)11-(4-methoxyphenyl)-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)C4=CC=C(C=C4)OC | C29H36O5
reactant | sodium methanethiolate | 5.6 g | C[S-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 17,17-bis-(ethylenedioxy)-11-(4-hydroxyphenyl)-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)C4=CC=C(C=C4)O | C28H34O5
